US06265397B1
(i) Ethyl 3-(2-chloro-4-methoxyphenoxy)propionate
Sodium (0.055 g; 2.4 mmol) and ethanol (1.5 mL) was added to a melt of 2-chloro-4-methoxyphenol (5.20 g; 32.8 mmol). When all the sodium was dissolved, ethyl acrylate (4.1 g; 41 mmol) was added and the mixture was heated at 105° C. for 7 days. The mixture was then cooled to RT and partitioned between ether and water. The mixture was made acidic with HCl (2M; aq.) and extracted with ether three times. The combined organic layer was washed with NaOH (2M; aq), dried (CaCl2) and evaporated. The crude product (2.7 g) was purified using preparative RPLC (CH3CN:0.1M ammonium acetate (60:40)). Yield 1.90 g (22%).

reactant | Sodium | 2.4 mmol, 0.055 g | [Na] | Na
reactant | 2-chloro-4-methoxyphenol | 32.8 mmol, 5.20 g | ClC1=C(C=CC(=C1)OC)O | C7H7ClO2
reactant | ethyl acrylate | 41 mmol, 4.1 g | C(C=C)(=O)OCC | C5H8O2
solvent | ethanol | 1.5 mL | C(C)O | C2H6O
product | Ethyl 3-(2-chloro-4-methoxyphenoxy)propionate | ClC1=C(OCCC(=O)OCC)C=CC(=C1)OC | C12H15ClO4
